US07355052B2
Stage 3: 2-[(4-acetylphenyl)amino]-1-[2-(1,3-dioxolan-2-yl)ethyl]-N,N-bis(3-methylbutyl)-1H-benzimidazole-6-carboxamide
4-acetylphenyl isothiocyanate (1.1 g, 1.2 eq) and diisopropylcarbodiimide (1.95 g, 3 eq) are successively added to a solution of 4-amino-3-{[2-(1,3-dioxolan-2-yl)ethyl]amino}-N,N-bis(3-methylbutyl)benzamide (2 g, 1 eq) in tetrahydrofuran (50 ml). The mixture is heated under reflux for 18 hours then cooled down to ambient temperature and concentrated under reduced pressure at 40° C. Water (100 ml) and dichloromethane (200 ml) are added to the residue obtained. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: heptane/ethyl acetate 4:6) produces the expected compound in the form of a white foam (1.8 g; 66% yield).

reactant | 4-acetylphenyl isothiocyanate | 1.1 g, 1.2 eq | C(C)(=O)C1=CC=C(C=C1)N=C=S | C9H7NOS
reactant | diisopropylcarbodiimide | 1.95 g, 3 eq | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 4-amino-3-{[2-(1,3-dioxolan-2-yl)ethyl]amino}-N,N-bis(3-methylbutyl)benzamide | 2 g, 1 eq | NC1=C(C=C(C(=O)N(CCC(C)C)CCC(C)C)C=C1)NCCC1OCCO1 | C22H37N3O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[(4-acetylphenyl)amino]-1-[2-(1,3-dioxolan-2-yl)ethyl]-N,N-bis(3-methylbutyl)-1H-benzimidazole-6-carboxamide | 66% yield | C(C)(=O)C1=CC=C(C=C1)NC1=NC2=C(N1CCC1OCCO1)C=C(C=C2)C(=O)N(CCC(C)C)CCC(C)C | C31H42N4O4
